US05025031
(1-Methylethyl)sulfamic acid phenyl ester
This compound was prepared according to the procedure of Example 37. Thus a solution of 16.2 g (0.17 mole) of phenol and 33.0 g (0.21 mole) of N-isopropylsulfamoyl chloride (prepared from isopropylamine, sulfuryl chloride and antimony pentachloride by the procedure of Example 2, part a) in 150 ml of toluene gave a dark oil which was purified by column chromatography on silica gel using ethyl acetate-hexanes (1:16) to elute the product. Desired fractions were combined and concentrated to yield 11.7 g (32%) of the title compound as a light-yellow oil.

reactant | phenol | 0.17 mole, 16.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | N-isopropylsulfamoyl chloride | 0.21 mole, 33.0 g | C(C)(C)NS(=O)(=O)Cl | C3H8ClNO2S
reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | antimony pentachloride | [Sb](Cl)(Cl)(Cl)(Cl)Cl
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | (1-Methylethyl)sulfamic acid phenyl ester | 11.7 g, 32% | C1(=CC=CC=C1)OS(NC(C)C)(=O)=O | C9H13NO3S
